US04760163
using isopropyl 2-chloro-4-fluoro-5-{3-[4-(methoxycarbonyl)-2,5-dihydrothien-3-yl]ureido}-benzoate with sodium isopropylate in an isopropanol/dimethylformamide mixture there is obtained isopropyl 2-chloro-4-fluoro-5-{1,2,5,7-tetrahydro-2,4-dioxothieno[3,4-d]pyrimidin-3(4H)-yl}-benzoate, m.p. 180°-183° C.,

reactant | isopropyl 2-chloro-4-fluoro-5-{3-[4-(methoxycarbonyl)-2,5-dihydrothien-3-yl]ureido}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC=1CSCC1C(=O)OC | C17H18ClFN2O5S
reactant | sodium | [Na] | Na
solvent | isopropanol dimethylformamide | C(C)(C)O.CN(C=O)C
product | isopropyl 2-chloro-4-fluoro-5-{1,2,5,7-tetrahydro-2,4-dioxothieno[3,4-d]pyrimidin-3(4H)-yl}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC2=C(C1=O)CSC2)=O | C16H14ClFN2O4S
